US04636498
(N-Pentylguanyl)thiourea
N-Pentyl-N'-cyanoguanidine (30.0 g, 0.195 mol) and diethylamine (3 ml) were combined in methanol (550 ml). This solution was cooled to -40°, saturated with hydrogen sulfide gas, transferred to a stainless steel bomb and heated at 85° for 40 hours. The excess hydrogen sulfide was purged from the reaction mixture with nitrogen and the solution was then concentrated in vacuo. The residue was flash chromatographed (140 mm column, 5% methanol in chloroform). The fractions containing pure product were combined and evaporated yielding 22.01 g (59.9%) of white solid. A portion was recrystallized from chloroform to furnish material with mp 98°-100°, mass spec.: M+ 188.

reactant | N-Pentyl-N'-cyanoguanidine | 0.195 mol, 30.0 g | C(CCCC)NC(=N)NC#N | C7H14N4
reactant | diethylamine | 3 ml | C(C)NCC | C4H11N
reactant | hydrogen sulfide | S | H2S
solvent | methanol | 550 ml | CO | CH4O
product | (N-Pentylguanyl)thiourea | 22.01 g, 59.9% | C(CCCC)NC(=N)NC(=S)N | C7H16N4S
